US09120761B2
(e) Methyl 2-(2-(2-(2-((2-methoxy-4-(piperidin-4-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate (I20)
Methyl 2-(2-(2-(2-(methylsulfonyl)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate (I15) (200 mg, 0.497 mmol) and tert-butyl 4-(4-((tert-butoxycarbonyl)amino)-3-methoxyphenyl)piperidine-1-carboxylate (I19) (303 mg, 0.745 mmol) were dissolved in trifluoroethanol (4 mL). Trifluoroacetic acid (200 μL) was added and the resulting mixture was heated at 100° C. under microwave irradiation for 1 hour. The crude reaction mixture was adsorbed onto silica gel and separated by silica gel chromatography (0-20% MeOH/DCM) to give the title compound (I20) (215 mg, 82%) as a light brown liquid; 1H NMR (400 MHz, d5-Acetone) δ 8.64 (s, 1H), 8.37 (dd, J=8.3, 3.7 Hz, 1H), 7.29 (ddd, J=13.2, 6.9, 1.7 Hz, 3H), 7.22 (ddd, J=8.9, 6.1, 1.7 Hz, 1H), 7.10 (d, J=1.5 Hz, 1H), 6.97 (dd, J=8.3, 1.5 Hz, 1H), 3.98 (d, J=7.4 Hz, 3H), 3.82 (s, 2H), 3.74-3.60 (m, 5H), 3.27 (t, J=11.7 Hz, 2H), 3.22-3.06 (m, 4H), 3.00 (s, 1H), 2.34-2.17 (m, 2H), 2.12 (dd, J=4.0, 3.5 Hz, 2H), 2.08 (dt, J=6.6, 2.2 Hz, 3H). LCMS Method C: rt 5.23 min; m/z 529.1 [M+1]+.

reactant | Methyl 2-(2-(2-(2-(methylsulfonyl)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate | 0.497 mmol, 200 mg | CS(=O)(=O)C1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)OC)C(F)(F)F | C17H17F3N2O4S
reactant | tert-butyl 4-(4-((tert-butoxycarbonyl)amino)-3-methoxyphenyl)piperidine-1-carboxylate | 0.745 mmol, 303 mg | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)OC | C22H34N2O5
reactant | Trifluoroacetic acid | 200 μL | FC(C(=O)O)(F)F | C2HF3O2
solvent | trifluoroethanol | 4 mL | C(C(F)(F)F)O | C2H3F3O
product | Methyl 2-(2-(2-(2-((2-methoxy-4-(piperidin-4-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate | COC1=C(C=CC(=C1)C1CCNCC1)NC1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)OC)C(F)(F)F | C28H31F3N4O3
